US05321027
1-[2-chloro-4-(N-propionylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine is prepared from 1-(4-amino-2-chlorobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine using propionic acid anhydride in chloroform. It has a melting point of 128°-130°.

reactant | 1-(4-amino-2-chlorobenzoyl)-4-[2-(4-chlorophenyl)ethyl]-piperazine | NC1=CC(=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1)Cl | C19H21Cl2N3O
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-[2-chloro-4-(N-propionylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | ClC1=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=CC(=C1)NC(CC)=O | C22H25Cl2N3O2
